US08633182B2
Step 1: (1R,2R)-2-(4-tert-Butoxy-phenyl)-cyclopropanecarboxylic acid ethyl ester (5a)
The title compound is prepared from 4-tert-butoxystyrene (4.3 g, 24.4 mmol) in a manner analogous to that described for Intermediate 4, step 1, using (S,S)-2,2′-isopropylidenebis(4-tert-butyl-2-oxazoline) (72 mg, 0.24 mmol) as the ligand (yield 6.4 g). LC (GC METHOD 1): tR=11.47 min; Mass spectrum (EI+): m/z=262 [M]+, e.e. 94% by chiral HPLC. (Column: Daicel Chiralcel OJ-H, 4.6×250 mm, 5 μm Mobile phase: hexane:ethanol 95:5, 1 mL/min, 25° C.) tR=8.94 (9.93) min

reactant | 4-tert-butoxystyrene | 24.4 mmol, 4.3 g | C(C)(C)(C)OC1=CC=C(C=C)C=C1 | C12H16O
reactant | (S,S)-2,2′-isopropylidenebis(4-tert-butyl-2-oxazoline) | 0.24 mmol, 72 mg | C(C)(C)(C=1OC[C@@H](N1)C(C)(C)C)C=1OC[C@@H](N1)C(C)(C)C | C17H30N2O2
reactant | hexane ethanol | CCCCCC.C(C)O
product | (1R,2R)-2-(4-tert-Butoxy-phenyl)-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)[C@H]1[C@@H](C1)C1=CC=C(C=C1)OC(C)(C)C | C16H22O3
